US07030128B2
2-Bromo-6-methylpyridine (367 mg, 2.1 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.4 mmol) by the method of Example 1 to give 3-(6-methylpyridin-2-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine (142 mg) as a white solid: δH (400 MHz, DMSO) 2.62 (3H, s), 7.26 (1H, d, J 7.4), 7.70 (1H, d, J 7.4), 7.86 (1H, t, J 7.8), 7.94 (1H, s), 8.83 (1H, s), 10.55 (1H, d, J 7.8); m/z (ES+) 279 (M++H).

reactant | 2-Bromo-6-methylpyridine | 2.1 mmol, 367 mg | BrC1=NC(=CC=C1)C | C6H6BrN
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.4 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-(6-methylpyridin-2-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine | 142 mg | CC1=CC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C13H9F3N4
